US04145432
To a solution of diethyl 2-methyl-4-(2-methoxyphenyl)-6-diethoxymethyl-1,4-dihydropyridine-3,5-dicarboxylate (447.5 mg) in acetone (7.5 ml) was added 6N-hydrochloric acid (0.2 ml) and stirred at room temperature for an hour. The resultant mixture was treated in a similar manner to Example 2-4), to give reddish yellow crystals of diethyl 2-methyl-4-(2-methoxyphenyl)-6-formyl-1,4-dihydropyridine-3,5-dicarboxylate (373.2 mg). The product was recrystallized from a mixture of diethyl ether and n-hexane to give the pure product, m.p. 111° to 112° C.

reactant | diethyl 2-methyl-4-(2-methoxyphenyl)-6-diethoxymethyl-1,4-dihydropyridine-3,5-dicarboxylate | 447.5 mg | CC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)OC)C(=O)OCC)C(OCC)OCC | C24H33NO7
reactant | hydrochloric acid | 0.2 ml | Cl | ClH
solvent | acetone | 7.5 ml | CC(=O)C | C3H6O
product | diethyl 2-methyl-4-(2-methoxyphenyl)-6-formyl-1,4-dihydropyridine-3,5-dicarboxylate | 373.2 mg | CC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)OC)C(=O)OCC)C=O | C20H23NO6
